* SPDX-License-Identifier: Apache-2.0
* Fixed physical VCO delay-tile variants used for LVS and extracted simulation.

.subckt cml_vco_delay_fast INP INN OUTP OUTN VCTRL VDD VSS
XRP VDD OUTP VSS ppolyf_u r_width=2u r_length=5.25u
XRN VDD OUTN VSS ppolyf_u r_width=2u r_length=5.25u
XMP OUTP INP TAIL VSS nfet_03v3 w=5u l=0.28u m=2
XMN OUTN INN TAIL VSS nfet_03v3 w=5u l=0.28u m=2
XMT TAIL VCTRL VSS VSS nfet_03v3 w=10u l=0.28u m=4
XLP OUTP OUTN LTAIL VSS nfet_03v3 w=4u l=0.28u m=1
XLN OUTN OUTP LTAIL VSS nfet_03v3 w=4u l=0.28u m=1
XMLT LTAIL VCTRL VSS VSS nfet_03v3 w=4u l=0.28u m=2
XCP VSS OUTP VSS VSS nfet_03v3 w=4u l=0.6u m=1
XCN VSS OUTN VSS VSS nfet_03v3 w=4u l=0.6u m=1
.ends cml_vco_delay_fast

.subckt cml_vco_delay_ultra_fast INP INN OUTP OUTN VCTRL VDD VSS
XRP VDD OUTP VSS ppolyf_u r_width=2u r_length=4.25u
XRN VDD OUTN VSS ppolyf_u r_width=2u r_length=4.25u
XMP OUTP INP TAIL VSS nfet_03v3 w=5u l=0.28u m=2
XMN OUTN INN TAIL VSS nfet_03v3 w=5u l=0.28u m=2
XMT TAIL VCTRL VSS VSS nfet_03v3 w=10u l=0.28u m=4
XLP OUTP OUTN LTAIL VSS nfet_03v3 w=4u l=0.28u m=1
XLN OUTN OUTP LTAIL VSS nfet_03v3 w=4u l=0.28u m=1
XMLT LTAIL VCTRL VSS VSS nfet_03v3 w=4u l=0.28u m=2
XCP VSS OUTP VSS VSS nfet_03v3 w=4u l=0.5u m=1
XCN VSS OUTN VSS VSS nfet_03v3 w=4u l=0.5u m=1
.ends cml_vco_delay_ultra_fast

.subckt cml_vco_delay_slow INP INN OUTP OUTN VCTRL VDD VSS
XRP VDD OUTP VSS ppolyf_u r_width=2u r_length=5.25u
XRN VDD OUTN VSS ppolyf_u r_width=2u r_length=5.25u
XMP OUTP INP TAIL VSS nfet_03v3 w=5u l=0.28u m=2
XMN OUTN INN TAIL VSS nfet_03v3 w=5u l=0.28u m=2
XMT TAIL VCTRL VSS VSS nfet_03v3 w=10u l=0.28u m=4
XLP OUTP OUTN LTAIL VSS nfet_03v3 w=4u l=0.28u m=1
XLN OUTN OUTP LTAIL VSS nfet_03v3 w=4u l=0.28u m=1
XMLT LTAIL VCTRL VSS VSS nfet_03v3 w=4u l=0.28u m=2
XCP VSS OUTP VSS VSS nfet_03v3 w=4u l=2.4u m=1
XCN VSS OUTN VSS VSS nfet_03v3 w=4u l=2.4u m=1
.ends cml_vco_delay_slow

.subckt cml_vco_delay_high_gain INP INN OUTP OUTN VCTRL VDD VSS
XRP VDD OUTP VSS ppolyf_u r_width=2u r_length=6.5u
XRN VDD OUTN VSS ppolyf_u r_width=2u r_length=6.5u
XMP OUTP INP TAIL VSS nfet_03v3 w=5u l=0.28u m=2
XMN OUTN INN TAIL VSS nfet_03v3 w=5u l=0.28u m=2
XMT TAIL VCTRL VSS VSS nfet_03v3 w=10u l=0.28u m=4
XLP OUTP OUTN LTAIL VSS nfet_03v3 w=4u l=0.28u m=1
XLN OUTN OUTP LTAIL VSS nfet_03v3 w=4u l=0.28u m=1
XMLT LTAIL VCTRL VSS VSS nfet_03v3 w=4u l=0.28u m=2
XCP VSS OUTP VSS VSS nfet_03v3 w=4u l=0.5u m=1
XCN VSS OUTN VSS VSS nfet_03v3 w=4u l=0.5u m=1
.ends cml_vco_delay_high_gain
